US05661160
Synthesis of 3,4,5-Trimethoxy-phenyl-acetyl chloride
Combine 3,4,5-trimethoxy-phenyl-acetic acid (2.26 g, 10 mmol) and dichloromethane (50 mL). Cool to -5° C. using a ice-salt bath. Add 2 drops of dimethylformamide followed by dropwise addition of oxalyl chloride (1.74 mL, 20 mmol). after 1 hour, warm the reaction mixture to ambient temperature. After 2 hours, evaporate the reaction mixture in vacuo to give the title compound as a liquid.

reactant | 3,4,5-trimethoxy-phenyl-acetic acid | 10 mmol, 2.26 g | COC=1C=C(C=C(C1OC)OC)CC(=O)O | C11H14O5
reactant | oxalyl chloride | 20 mmol, 1.74 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
catalyst | dimethylformamide | 2 drops | CN(C=O)C | C3H7NO
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 3,4,5-Trimethoxy-phenyl-acetyl chloride | COC=1C=C(C=C(C1OC)OC)CC(=O)Cl | C11H13ClO4
